US09284312B2
6-(4-Hydroxybenzyl)-3-[(1S,2S)-2-hydroxycyclohexyl]-10-methyl-9,10-dihydropyrido[3,2-h]quinazolin-4(3H)-one
To a solution of 3-[(1S,2S)-2-hydroxycyclohexyl]-6-(4-methoxybenzyl)-10-methyl-9,10-dihydropyrido[3,2-h]quinazolin-4(3H)-one (0.250 g, 0.579 mmol) in 5 mL of dichloromethane at −78° C. was added boron tribromide (1 M in dichloromethane, 1.16 mL, 1.16 mmol). After 2 h, the mixture was warmed to −40° C., and additional boron tribromide was added (1 M in dichloromethane, 1.16 mL, 1.16 mmol). After 1 h, additional boron tribromide was added (1 M in dichloromethane, 1.16 mL, 1.16 mmol) and after 30 min, the reaction was quenched with methanol and concentrated in vacuo. The residue was diluted with ethyl acetate, then washed with saturated aqueous sodium bicarbonate and brine. The organic solution was dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-5% methanol in dichloromethane, to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 418.1 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 8.92 (s, 1H), 8.19 (d, J=8.5 Hz, 1H), 7.96 (s, 1H), 7.42-7.38 (m, 1H), 6.99-6.97 (m, 2H), 6.78-6.69 (m, 2H), 4.74-4.60 (m, 2H), 4.40-4.34 (m, 1H), 4.24 (s, 2H), 3.64-3.59 (m, 1H), 3.23 (s, 3H), 2.40 (br s, 1H), 2.21 (br s, 1H), 1.91-1.80 (m, 3H), 1.66-1.24 (m, 4H).

reactant | 3-[(1S,2S)-2-hydroxycyclohexyl]-6-(4-methoxybenzyl)-10-methyl-9,10-dihydropyrido[3,2-h]quinazolin-4(3H)-one | 0.579 mmol, 0.250 g | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC1=CC=C(C=C1)OC)C=CCN3C | C26H29N3O3
reactant | boron tribromide | 1.16 mmol, 1 M, 1.16 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 6-(4-Hydroxybenzyl)-3-[(1S,2S)-2-hydroxycyclohexyl]-10-methyl-9,10-dihydropyrido[3,2-h]quinazolin-4(3H)-one | OC1=CC=C(CC=2C=C3C(N(C=NC3=C3C2C=CCN3C)[C@@H]3[C@H](CCCC3)O)=O)C=C1 | C25H27N3O3
